US05591742
4-Cyano-3-(2-ethoxybenzylamino)pyridine-2-carboxamide
The title compound was prepared from 2-ethoxybenzoyl chloride and 3-amino-4-cyanopyridine-2-carboxamide (Preparation 12), following the procedure of Preparation 7, and was obtained as a colourless solid. (6.2%), m.p. 150°-152° C. Found: C,61.99; H,4.62; N,17.84. C16H14N4O3 requires C,61.93; H,4.55; N,18.06%.

reactant | 2-ethoxybenzoyl chloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
reactant | 3-amino-4-cyanopyridine-2-carboxamide | NC=1C(=NC=CC1C#N)C(=O)N | C7H6N4O
product | 4-Cyano-3-(2-ethoxybenzylamino)pyridine-2-carboxamide | C(#N)C1=C(C(=NC=C1)C(=O)N)NCC1=C(C=CC=C1)OCC | C16H16N4O2
